US07855216B2
[3-(2-Fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridin-2-yl]-(3-hydroxy-azetidin-1-yl)-methanone
The title compound was prepared in an analogous fashion to [3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridin-2-yl]-((R)-3-hydroxy-pyrrolidin-1-yl)-methanone, replacing (R)-pyrrolidin-3-ol hydrochloride with azetidin-3-ol hydrochloride. 1H-NMR (400 MHz, MeOD) 6 ppm 8.84 (s, 1H), 8.34 (d, J=6.55 Hz, 1H), 7.77 (d, J=6.58 Hz, 1H), 7.50 (dd, J=10.88 Hz, 1H), 7.29 (d, J=8.54 Hz, 1H), 6.62 (t, J=8.83 Hz, 1H), 4.60-4.52 (m, 1H), 4.50-4.31 (m, 2H), 4.19-3.82 (m, 2H); LC-MS (method E): [M+H]+=453.1, RT=3.55 min.

reactant | [3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridin-2-yl]-((R)-3-hydroxy-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)I)NC1=C(NC2=C1C=NC=C2)C(=O)N2C[C@@H](CC2)O | C18H16FIN4O2
reactant | azetidin-3-ol hydrochloride | Cl.N1CC(C1)O
product | [3-(2-Fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridin-2-yl]-(3-hydroxy-azetidin-1-yl)-methanone | FC1=C(C=CC(=C1)I)NC1=C(NC2=C1C=NC=C2)C(=O)N2CC(C2)O | C17H14FIN4O2
